US07226923B2
Bromo-3-isopropyl-4-oxo-3,4-dihydro-phthalazine-6-carboxylic acid ethyl ester
Bromo-4-oxo-3,4-dihydro-phthalazine-6-carboxylic acid ethyl ester (6 g, 0.02 mol) was dissolved in dimethylformamide (DMF) (60 ml). To this was added NaH (60%, 0.97 g, 0.024 mol) as a DMF suspension (5 ml). The mixture was stirred at room temperature for 30 minutes then 2-bromo-propanol (3.7 g, 0.03 mol) was added in one portion as a solution in DMF (5 ml). The reaction mixture was stirred for 48 hours whereupon LC-MS showed complete consumption of starting material. The DMF was removed under vacuum and the resulting residue was partitioned between DCM (100 ml) and water (100 ml), the organic layer was dried (MgSO4), filtered and concentrated under vacuum. The resulting yellow oil was recrystallised from methanol to give the title compound (2.3 g, 34% yield) as a white solid. MS (ESI+)=(M+H)+ 339 & 341

reactant | Bromo-4-oxo-3,4-dihydro-phthalazine-6-carboxylic acid ethyl ester | 0.02 mol, 6 g | C(C)OC(=O)C=1C=C2C(NN=C(C2=CC1)Br)=O | C11H9BrN2O3
reactant | NaH | 0.024 mol, 0.97 g | [H-].[Na+]
reactant | 2-bromo-propanol | 0.03 mol, 3.7 g | BrC(CO)C | C3H7BrO
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | DMF | 5 ml | CN(C=O)C | C3H7NO
solvent | DMF | 5 ml | CN(C=O)C | C3H7NO
product | Bromo-3-isopropyl-4-oxo-3,4-dihydro-phthalazine-6-carboxylic acid ethyl ester | 2.3 g, 34% yield | C(C)OC(=O)C=1C=C2C(N(N=C(C2=CC1)Br)C(C)C)=O | C14H15BrN2O3
